US06075036
A solution of 4-methoxy-2-n-propylpyridine (45.7 g, 0.3 mol) and 4-methoxyphenacylbromide (69.2 g, 0.3 mol) in 400 ml of dry acetone was heated to reflux for eight hours. The mixture was cooled and the precipitate was isolated and dried to afford 103.8 g (90%) of 4-methoxy-1-(4-methoxyphenacyl)-2-n-propylpyridinium bromide. The quaternary salt (103.8 g) was suspended in 480 ml of water and sodium hydrogen carbonate (102.0 g) was added. The mixture was refluxed for two hours. The resulting precipitate was filtered off, washed with water and dried to yield overall 73.2 g (86%) of 1-ethyl-7-methoxy-2-(4-methoxyphenyl)indolizine. M.p. 101-3° C. 1H-NMR (DMSO-d6, 200 MHz) δ: 1.10 (t, 3H), 2.77 (q, 2H), 3.77 (s, 3H), 3.80 (s, 3H), 6.23 (dd, 1H), 6.65 (d, 1H), 7.00 (d, 2H), 7.35 (s, 1H), 7.38 (d, 2H), 8.06 (d, 1H).

reactant | 4-methoxy-2-n-propylpyridine | 0.3 mol, 45.7 g | COC1=CC(=NC=C1)CCC | C9H13NO
reactant | 4-methoxyphenacylbromide | 0.3 mol, 69.2 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 4-methoxy-1-(4-methoxyphenacyl)-2-n-propylpyridinium bromide | 103.8 g, 90% | [Br-].COC1=CC(=[N+](C=C1)CC(=O)C1=CC=C(C=C1)OC)CCC | InChI=1S/C18H22NO3.BrH/c1-4-5-15-12-17(22-3)10-11-19(15)13-18(20)14-6-8-16(21-2)9-7-14;/h6-12H,4-5,13H2,1-3H3;1H/q+1;/p-1
